US07671043B2
12B. 4-[5-(4-Methylphenyl)-1,2,4-oxadiazol-3-yl]benzaldehyde
Florosil (250 mg) and PCC (121.5 mg, 0.564 mmol) was added to a solution of {4-[5-(4-methylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol (75.1 mg, 0.282 mmol) and CH2Cl2 (1.5 mL) and stirred at room temperature for 3 hours. The reaction mixture was diluted with CH2Cl2 and filtered through a pad of silica gel. The pad was eluted with CH2Cl2 and 1:1 ethyl acetate:hexanes and the combined eluents were concentrated in vacuo to provide the title compound as a crude residue.

reactant | PCC | 0.564 mmol, 121.5 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | {4-[5-(4-methylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol | 0.282 mmol, 75.1 mg | CC1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)CO | C16H14N2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-(4-Methylphenyl)-1,2,4-oxadiazol-3-yl]benzaldehyde | CC1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C16H12N2O2
